US08426420B2
iv) 3-Amino-pyrrolidine-1-carboxylic acid butyl ester
A solution of 467 mg 3-benzyloxycarbonylamino-pyrrolidine-1-carboxylic acid butyl ester in 10 ml ethyl acetate was stirred in the presence of 50 mg Pd/C (10%) under an atmosphere of hydrogen (1 bar) for 12 h. The reaction mixture was filtrated, washed with ethyl acetate and concentrated to give the title compound as colorless oil.

reactant | 3-benzyloxycarbonylamino-pyrrolidine-1-carboxylic acid butyl ester | 467 mg | C(CCC)OC(=O)N1CC(CC1)NC(=O)OCC1=CC=CC=C1 | C17H24N2O4
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-Amino-pyrrolidine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CC(CC1)N | C9H18N2O2
